US03957833
By utilizing the procedure of Example 26, by reacting p-[(1.5-dimethylhexyl)thio]benzyl alcohol with propargyl bromide, there is obtained p-[(1,5-dimethylhexyl)thio]-α-propargyloxy-toluene; nD29 = 1.5243.

reactant | p-[(1.5-dimethylhexyl)thio]benzyl alcohol | CC(CCCC(C)C)SC1=CC=C(CO)C=C1 | C15H24OS
reactant | propargyl bromide | C(C#C)Br | C3H3Br
product | p-[(1,5-dimethylhexyl)thio]-α-propargyloxy-toluene | CC(CCCC(C)C)SC1=CC=C(C=C1)COCC#C | C18H26OS
